US08012606B2
To a solution of 0.7 g (3.1 millimoles) of palladium (II) acetate in 40 ml of xylene was added 3 ml (12.4 millimoles) of tri-tert-butylphosphine and the mixture was heated at 80° C. for 30 minutes with stirring. This solution was transferred into a solution heated at 80° C. of 6.5 g (0.0264 mole) of 2,7-diaminothianthrene, 20.5 g (0.0657 mole) of 2,2′-dibromobiphenyl, and 22.0 g (0.229 mole) of sodium tert-butoxide in 380 ml of xylene. The mixture was then heated up to 125° C. and heated at this temperature with stirring for 5 hours. The reaction mixture was cooled to room temperature, and 200 ml of water was added. A precipitate was collected by filtration and washed with THF to give 5.18 g (0.0095 mole, 36% yield) of 2,7-bis(9-carbazolyl)thianthrene. The product showed a purity of 99.1 area % (HPLC, 254 nm). The product was purified further by sublimation; APCI-TOFMS, m/z 547 [M+H]+, m.p. 350° C., Tg 137° C.

reactant | tri-tert-butylphosphine | 12.4 millimoles, 3 ml | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 2,7-diaminothianthrene | 0.0264 mole, 6.5 g | NC1=CC=2SC3=CC=C(C=C3SC2C=C1)N | C12H10N2S2
reactant | 2,2′-dibromobiphenyl | 0.0657 mole, 20.5 g | BrC1=C(C=CC=C1)C1=C(C=CC=C1)Br | C12H8Br2
reactant | sodium tert-butoxide | 0.229 mole, 22.0 g | CC(C)([O-])C.[Na+]
reactant | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | xylene | 380 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium (II) acetate | 3.1 millimoles, 0.7 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 200 ml | O | H2O
product | 2,7-bis(9-carbazolyl)thianthrene | 0.0095 mole, 5.18 g, 36% yield | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=CC=2SC3=CC=C(C=C3SC2C=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C36H22N2S2
